US04536499
(f) 1-[3-[2-(5-methyl-3-phenyl-4-isoxazolyl)-1H-3-indolyl]propionyl]piperidine
Also, following the above procedure and using in place of 2-(5-methyl-3-phenyl-4-isoxazolyl)-3-indole propionyl chloride an equivalent amount of 2-(3-ethyl-5-methyl-4-isoxazolyl)-3-indole propionyl chloride and using in place of dimethylamine an equivalent amount of pyrrolidine there is obtained

reactant | 2-(5-methyl-3-phenyl-4-isoxazolyl)-3-indole propionyl chloride | CC1=C(C(=NO1)C1=CC=CC=C1)C=1NC2=CC=CC=C2C1CCC(=O)Cl | C21H17ClN2O2
reactant | 2-(3-ethyl-5-methyl-4-isoxazolyl)-3-indole propionyl chloride | C(C)C1=NOC(=C1C=1NC2=CC=CC=C2C1CCC(=O)Cl)C | C17H17ClN2O2
reactant | dimethylamine | CNC | C2H7N
reactant | pyrrolidine | N1CCCC1 | C4H9N
product | 1-[3-[2-(5-methyl-3-phenyl-4-isoxazolyl)-1H-3-indolyl]propionyl]piperidine | CC1=C(C(=NO1)C1=CC=CC=C1)C=1NC2=CC=CC=C2C1CCC(=O)N1CCCCC1 | C26H27N3O2
